US08232300B2
(3) 5,6,6a,7,8,9-Hexahydro-4H-2-phenalenecarboxylic acid
2.5 N Aqueous sodium hydroxide (9.2 ml) was cooled to 0° C., and slowly added with bromine (0.30 ml), and then the mixture was diluted with 1,4-dioxane (1.5 ml) to obtain a yellow solution. A solution of 1-(5,6,6a,7,8,9-hexahydro-4H-2-phenalenyl)ethanone (0.380 g) in water (5 ml) and 1,4-dioxane (10 ml) was cooled to 0° C., and slowly added with the yellow solution prepared above, and the mixture was stirred at 0° C. for 10 minutes and at room temperature for 1 hour. The reaction mixture was cooled to 0° C., and added with 10% aqueous sodium sulfite, then the mixture was made acidic with 2 N aqueous hydrochloric acid, and the mixture was extracted with chloroform. The organic layer was washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was recrystallized from ethyl acetate-n-hexane to obtain the title compound (0.338 g, yield: 88%) as colorless needles (melting point: 208-209° C.). ° C.

reactant | sodium hydroxide | 2.5 N, 9.2 ml | [OH-].[Na+]
reactant | bromine | 0.30 ml | BrBr | Br2
reactant | 1-(5,6,6a,7,8,9-hexahydro-4H-2-phenalenyl)ethanone | 0.380 g | C1=C(C=C2CCCC3CCCC1=C23)C(C)=O | C15H18O
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5,6,6a,7,8,9-Hexahydro-4H-2-phenalenecarboxylic acid | 0.338 g, yield: 88% | C1=C(C=C2CCCC3CCCC1=C23)C(=O)O | C14H16O2
